US04122261
Proceeding in a manner similar to that described above in Example 10, part A, but substituting equivalent amounts of 4-bromo-6-methyl-4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2-(2-methylmorpholino)-4-imino-2-thiazoline hydrochloride for 4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2,4-diiminothiazolidine hydrochloride respectively, there is obtained as the product 1-imino-4-bromo-6-methyl-4,5,6,7-tetrahydro-3-[2-(2-methylmorpholino)-4-imino-2-thiazolin-5-ylidene]isoindoline.

reactant | 4-bromo-6-methyl-4,5,6,7-tetrahydro-1,3-diiminoisoindoline | BrC1C=2C(NC(C2CC(C1)C)=N)=N | C9H12BrN3
reactant | 2-(2-methylmorpholino)-4-imino-2-thiazoline hydrochloride | Cl.CC1OCCN(C1)C=1SCC(N1)=N
reactant | 4,5,6,7-tetrahydro-1,3-diiminoisoindoline | N=C1NC(C=2CCCCC12)=N | C8H11N3
reactant | 2,4-diiminothiazolidine hydrochloride | Cl.N=C1SCC(N1)=N
product | 1-imino-4-bromo-6-methyl-4,5,6,7-tetrahydro-3-[2-(2-methylmorpholino)-4-imino-2-thiazolin-5-ylidene]isoindoline | N=C1NC(C=2C(CC(CC12)C)Br)=C1C(N=C(S1)N1CC(OCC1)C)=N | C17H22BrN5OS
